US05852142
2-Methyl-1-indanone (5)
17.3 g (125 mmol) of AlCl3 were added to a solution of 3.91 g (50 mmol) of benzene in 30 ml of analytical grade methylene chloride, while cooling with ice. 11.9 g (52 mmol) of 2-bromoisobutyryl bromide were then added, and stirring was continued at 0° C. for 1 hour and at room temperature for 2 hours. The mixture was heated under reflux for a further 15 hours and then worked up analogously to Example A. The crude product was chromatographed on 100 g of silica gel (hexane/methylene chloride 1:1). The yield was 5.1 g (70%).

reactant | AlCl3 | 125 mmol, 17.3 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | benzene | 50 mmol, 3.91 g | C1=CC=CC=C1 | C6H6
reactant | 2-bromoisobutyryl bromide | 52 mmol, 11.9 g | BrC(C(=O)Br)(C)C | C4H6Br2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-Methyl-1-indanone | CC1C(C2=CC=CC=C2C1)=O | C10H10O
